US04206217
5-Chloro-3-[4-(imidazolin-2-yl)-phenyl]-1,2-benzisothiazole
44 g of 5-chloro-3-(4'-chloromethylphenyl)-1,2-benzisothiazole, 9.6 g of sulfur and 18 g of ethylenediamine in 500 ml of toluene are refluxed for 20 hours. The reaction mixture is filtered hot, the filtrate is cooled and the resulting crystals are filtered off. After recrystallization from toluene in the presence of active charcoal, 26 g of 5-chloro-3-[4-(imidazolin-2-yl)-phenyl]-1,2-benzisothiazole, melting at 195° C., are obtained. The yield corresponds to 55% of theory.

reactant | 5-chloro-3-(4'-chloromethylphenyl)-1,2-benzisothiazole | 44 g | ClC=1C=CC2=C(C(=NS2)C2=CC=C(C=C2)CCl)C1 | C14H9Cl2NS
reactant | sulfur | 9.6 g | [S] | S
reactant | ethylenediamine | 18 g | C(CN)N | C2H8N2
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Chloro-3-[4-(imidazolin-2-yl)-phenyl]-1,2-benzisothiazole | ClC=1C=CC2=C(C(=NS2)C2=CC=C(C=C2)C=2NCCN2)C1 | C16H12ClN3S
